*********************************************************************************
*										*
*	    ,o888888o.    88888888888o.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************
***********************************************************
****	Cree SiC MOSFET C2M0280120D Spice Library 
****	Version 1.0 Date: 11-28-2016
****	Version 2.0 Date: 01-22-2018
****	Version 3.0 Date: 06-19-2018
**********************************************************
****	Revision record
****	Version Beta	Initial Release
****	Version 1	Included model number at subcircuit to avoid library overlapping when two Modfet models called
****	Version 2	This spice model is compatible to both Ltspice and Orcad Pspsice
****	Version 3	Update the thermal RC model
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************

*****************************************
****	C2M0280120D SiC MOSFET Model
*****************************************
.subckt C2M0280120D d g s Tj Tc

xgmos	d1 g1 s1 Tj Tc gmos_C2M0280120D 
Ls 		s	s1	9n
R_Ls 		s	s1      10
Rg 		g1	g2	11.4
Lg 		g	g3	15n
R_Lg		g	g3	10
Ld 		d	d3      6n
R_Ld		d	d3	10  

G1_d		d2	d1      Value {(V(d2,d1))/((0.0000073333*((V(Tj))**2)+0.0006547619*(V(Tj))+0.2192857143)+1n)}
R1_D		d2	d1	1E12
Vg_s		g3	g2	0
Vd_s		d3	d2	0
GH		0	Tj	value {abs((V(d,s)*I(Vd_s)))+abs((V(g1,g2)*I(Vg_s)))}
XCGD	d1	g1	cgdmos_C2M0280120D 
CGS	g1	s1	258p
CDS	d2	s1	10.98p
D1	s1	d2	bodydiode_C2M0280120D

R0 N1 Tj 28.4m
R1 N2 N1 0.96
R2 N3 N2 97.3m
R3 N4 N3 59m
R4 N5 N4 0.111
R5 N6 N5 0.114
R6 N7 N6 61.3m
R7 N8 N7 74.2m
R8 N9 N8 59.2m
R9 N10 N9 59.1m
R10 N11 N10 67.9m
R11 N12 N11 63.1m
R12 N13 N12 31.9m
R13 Tc N13 8.36m
C0 Tj 0 0.463m
C1 N1 0 1.71m
C2 N2 0 0.283m
C3 N3 0 1.6m
C4 N4 0 3.11m
C5 N5 0 2.14m
C6 N6 0 5.39m
C7 N7 0 10.6m
C8 N8 0 21.8m
C9 N9 0 36.6m
C10 N10 0 52.5m
C11 N11 0 74.1m
C12 N12 0 0.189
C13 N13 0 2.95

.ends C2M0280120D 
*****************************************

.subckt gmos_C2M0280120D d1 g1 s1 Tj Tc

.param Adj = 0.49

e2_g		NET1	0	Value {(-0.0061933136*(V(Tj))+3.5185747167)}
R2_g		NET1	0 	1E12

e3_Th		NET2	0	Value {((0.0000381939*((V(Tj))**2)-0.0191324239*(V(Tj))+7.7967262057)*Adj)}
R3_Th		NET2	0 	1E12

.param p3  = 8.8	
.param p4  = 0.0257												
.param p5  = 2.0	
.param p6  = 2.0	
.param p7  = 0.5	
.param p8  = 0.001	
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10	
.param p12 = 25		 

R100 g2 s1	1e9
E100 g2 s1 	value {limit(V(g1,s1),p11,p12)}
 
G1 d1 s1 value {
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value {
+	if(V(d1,s1)<0,
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}

.ends gmos_C2M0280120D
****************************************

.model bodydiode_C2M0280120D d(is=1.1e-4 cjo=236.58p bv=1600 m=0.6 EG=3.26 vj=3.82 n=15 
+	rs=0.089  trs1=-0.0032489007 trs2=0.000013356122 Tnom=25
+	tt=15n ibv=500u Xti=70 level=1)

.subckt cgdmos_C2M0280120D d2 g
.param k1=119.2p	
.param k2=0.5		
.param ka=18.096	
.param kb=0.2678	
.param kc=7.5277	
G11 g d1 value {
+		k1*(
+		(1+(limit(v(d1,g),0,450))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R_CGD d1 d2 1e-3
C_CGD g d1 1p
.ends cgdmos_C2M0280120D
***************************************                                  